US07811595B2
Preparation of [(3-Hydroxy-pyridine-2-carbonyl)-amino]-acetic acid (30):
To a solution of [(3-hydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester, 29, (0.070 g, 0.277 mmol) in CH2Cl2 (4 mL) is added TFA (1 mL). The resulting solution is stirred for 5 hours then concentrated under reduced pressure to afford 0.054 g (99% yield) of the desired compound as a colorless solid. 1H NMR (400 MHz, MeOD) δ ppm 8.09 (1H, d, J=3.3 Hz), 7.36-7.59 (2H, m), 4.08 (2H, s). HPLC-MS: m/z 197 [M+H]+.

reactant | [(3-hydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC(=O)C1=NC=CC=C1O)=O | C12H16N2O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | [(3-Hydroxy-pyridine-2-carbonyl)-amino]-acetic acid | 0.054 g, 99% yield | OC=1C(=NC=CC1)C(=O)NCC(=O)O | C8H8N2O4
